US06258812B1
66.2) 4-(4-Pyrimidinylmethyl)-1 (2H)-phthalazinone
1.20 g (5.35 mmol) 2-pyrimidin-4-yl-indan-1,3-dione in 30 ml ethanol is spiked with 345 μl (6.96 mmol) hydrazine hydrate and heated for 5 h to 100° C. After cooling, the product is filtered off and washed with ethanol: m.p.: 204-206° C.; Anal. calc. (C13H10N4O.0.5 H2O ) C 63.15%, H 4.48%, N 22.66%; found C 63.3%, H 4.5%, N 22.7%; FAB MS (M+H)+=239.

reactant | 2-pyrimidin-4-yl-indan-1,3-dione | 5.35 mmol, 1.20 g | N1=CN=C(C=C1)C1C(C2=CC=CC=C2C1=O)=O | C13H8N2O2
reactant | hydrazine hydrate | 6.96 mmol, 345 μl | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(4-Pyrimidinylmethyl)-1 (2H)-phthalazinone | N1=CN=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O | C13H10N4O
